US07157491B2
7-Bromo-4-methylbenzofuran
To a 500 ml round bottom flask was added 15.6 g polyphosphoric acid (PPA) and anhydrous chlorobenzene (260 ml). The mixture was brought to reflux and 1-bromo-2-(2,2-dimethoxy-ethoxy)-4-methyl benzene (8.11 g, 29.5 mmol) in chlorobenzene (60 ml) was added dropwise over 2 h. The reaction was heated to reflux for 3 h, cooled to room temperature, passed through a silica plug and concentrated. Column chromatography (100% hexane) afforded 4.67 g (75%) of product as a white waxy solid: mp 32–33° C.; 1H NMR (300 MHz, DMSO-d6): δ 2.46 (3H, s), 7.02 (1H, d, J=7.9 Hz), 7.16 (1H, d, J=2.2 Hz), 7.43 (1H, d, J=7.9 Hz), 8.10 (1H, d, J=2.2 Hz); MS (EI) m/z 210 ([M+]).

reactant | 1-bromo-2-(2,2-dimethoxy-ethoxy)-4-methyl benzene | 29.5 mmol, 8.11 g | BrC1=C(C=C(C=C1)C)OCC(OC)OC | C11H15BrO3
solvent | chlorobenzene | 60 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 260 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 7-Bromo-4-methylbenzofuran | 4.67 g, 75% | BrC1=CC=C(C=2C=COC21)C | C9H7BrO
